US05536725
This compound is prepared in a manner analogous to that of Example 1, using 3.0 grams (0.013 mole) of 4-(phenyldimethylsilyl)cyclohexanone and 1.2 grams (0.014 mole) of cyanoguanidine in 2-(2-ethoxyethoxy)ethanol, yielding 2,4-diamino-6-(phenyldimethylsilyl)-5,6,7,8-tetrahydroquinazoline.

reactant | 4-(phenyldimethylsilyl)cyclohexanone | 0.013 mole, 3.0 grams | C1(=CC=CC=C1)[Si](C1CCC(CC1)=O)(C)C | C14H20OSi
reactant | cyanoguanidine | 0.014 mole, 1.2 grams | C(#N)NC(=N)N | C2H4N4
solvent | 2-(2-ethoxyethoxy)ethanol | C(C)OCCOCCO | C6H14O3
product | 2,4-diamino-6-(phenyldimethylsilyl)-5,6,7,8-tetrahydroquinazoline | NC1=NC=2CCC(CC2C(=N1)N)[Si](C)(C)C1=CC=CC=C1 | C16H22N4Si
